US07851473B2
Methyl 3-({[4-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazin-1-yl]carbonyl}amino)benzoate
To a solution of 1-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine (200 mg, 0.812 mmol) and triethylamine (0.113 ml, 0.812 mmol) in tetrahydrofuran (2 ml) was added methyl-3-isocyanatobenzoate (216 mg, 1.22 mmol) at room temperature, and the mixture was stirred at room temperature for 1 hour. The solvent was distilled off under reduced pressure. The residue was recrystallized from a mixed solvent of hexane and ethyl acetate to give 102 mg (29.7%) of the desired product as a solid.

reactant | 1-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine | 0.812 mmol, 200 mg | C1(=CC=CC=C1)C1=NSC(=N1)N1CCNCC1 | C12H14N4S
reactant | triethylamine | 0.812 mmol, 0.113 ml | C(C)N(CC)CC | C6H15N
reactant | methyl-3-isocyanatobenzoate | 1.22 mmol, 216 mg | COC(C1=CC(=CC=C1)N=C=O)=O | C9H7NO3
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | Methyl 3-({[4-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazin-1-yl]carbonyl}amino)benzoate | 102 mg, 29.7% | C1(=CC=CC=C1)C1=NSC(=N1)N1CCN(CC1)C(=O)NC=1C=C(C(=O)OC)C=CC1 | C21H21N5O3S
